US07834028B2
In an inert atmosphere, 1-ethyl-3-methyl-4-[2-(4-trifluoromethyl-phenyl)-ethyl]-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridine (51 mg, 0.15 mmol) was dissolved in 3-methyl-2-butyl-ketone (MIBK) (1 ml) followed by the addition of DIPEA (21.3 mg, 0.165 mmol) and toluene-4-sulfonic acid methylcarbamoyl-phenyl-methyl ester (71.8 mg, 0.225 mmol). The reaction mixture was heated to 90° C. for 24 h, concentrated in vacuo and the crude product was purified by prep. HPLC to give 70 mg (95%) of 2-{1-ethyl-3-methyl-4-[2-(4-trifluoromethyl-phenyl)-ethyl]-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl}-N-methyl-2-phenyl-acetamide. LC-MS: tR=0.84 min; [M+H]+=485.28.

reactant | 1-ethyl-3-methyl-4-[2-(4-trifluoromethyl-phenyl)-ethyl]-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridine | 0.15 mmol, 51 mg | C(C)N1N=C(C=2C(NCCC21)CCC2=CC=C(C=C2)C(F)(F)F)C | C18H22F3N3
reactant | DIPEA | 0.165 mmol, 21.3 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | toluene-4-sulfonic acid methylcarbamoyl-phenyl-methyl ester | 0.225 mmol, 71.8 mg | CNC(=O)C(C1=CC=CC=C1)OS(=O)(=O)C1=CC=C(C=C1)C | C16H17NO4S
solvent | 3-methyl-2-butyl-ketone | 1 ml | CC(C(C)C(=O)C(C)C(C)C)C | C11H22O
product | 2-{1-ethyl-3-methyl-4-[2-(4-trifluoromethyl-phenyl)-ethyl]-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl}-N-methyl-2-phenyl-acetamide | 70 mg, 95% | C(C)N1N=C(C=2C(N(CCC21)C(C(=O)NC)C2=CC=CC=C2)CCC2=CC=C(C=C2)C(F)(F)F)C | C27H31F3N4O
